US03936492
Equimolar quantities of N-methyl-N-octadecyl amine and glycidyl methacrylate were reacted together in methanol to form methacryloyloxyhydroxypropyl methyl octadecyl amine. 14.3 grams of the resultant amine were dissolved in 20 grams of dimethyl formamide and 4.2 grams of dimethyl sulfate were added slowly with stirring. After 10 days' standing at 25°C, 9 grams of crystalline material was isolated, washed with ether, and dried. The sulfate band in the crystalline product was identified in the I.R. spectrum.

reactant | N-methyl-N-octadecyl amine | CNCCCCCCCCCCCCCCCCCC | C19H41N
reactant | glycidyl methacrylate | C(C(=C)C)(=O)OCC1CO1 | C7H10O3
solvent | methanol | CO | CH4O
product | methacryloyloxyhydroxypropyl methyl octadecyl amine | C(C(=C)C)(=O)OC(CCCCCCCCCCCCCCCCC)N(C)CCCO | C26H51NO3
